US05190934
A suspension of 2.22 g of sodium hydride (80% in oil) in 50 ml of anhydrous tetrahydrofuran under an inert atmosphere at 20° is treated with 50 ml of an anhydrous tetrahydrofuran solution of 7.24 g of ethyl (methyl)phosphinate at such a rate so that the temperature does not exceed 25°. After the addition is complete the resulting suspension is stirred for 1 hour at room temperature before slow addition of 10.0 g of bromomethylcyclopropane. The reaction mixture is stirred for a further 3 hours at 20° cooled in an ice/water bath and 100 ml of water added carefully. The clear solution is then partitioned between dichloromethane and water. Separation of the organic layer followed by drying and removal of the solvent affords a pale yellow oil. Distillation under high vacuum affords ethyl cyclopropylmethyl(methyl)phosphinate of b.p. 100° C. (10-1 mbar); 1H-NMR (CDCl3): δ (ppm)=4.04 (2H, m, CH2OP) 1.66 (2H, d, CH2P), 1.47 (3H, d, CH3), 1.30 (3H, t, CH3) 0.88 (1H, m, CH), 0.55 (2H, m, CH2), 0.15 (2H, m, CH2).

reactant | sodium hydride | 2.22 g | [H-].[Na+]
reactant | ethyl (methyl)phosphinate | 7.24 g | CP(OCC)=O | C3H9O2P
reactant | bromomethylcyclopropane | 10.0 g | BrCC1CC1 | C4H7Br
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl cyclopropylmethyl(methyl)phosphinate | C1(CC1)CP(OCC)(=O)C | C7H15O2P
